US04599357
To the solution of 0.35 g of sodium in 50 ml of ethanol, 1.2 g of thioacetic acid are added and the mixture stirred for 0.5 hours at room temperature. Then 4.5 g 1-(2-bromopropanoyl)-indoline-2-carboxylic acid ethyl ester are added and the mixture is refluxed for 8 hours. It is cooled to room temperature, evaporated, and the residue partitioned between 30 ml of methylene chloride, 70 ml of diethyl ether and 50 ml of water. The organic layer is dried and evaporated, to yield the 1-(2-acetylthiopropanoyl)-indoline-2-carboxylic acid ethyl ester as an oil.

reactant | sodium | 0.35 g | [Na] | Na
reactant | thioacetic acid | 1.2 g | C(C)(=S)O | C2H4OS
reactant | 1-(2-bromopropanoyl)-indoline-2-carboxylic acid ethyl ester | 4.5 g | C(C)OC(=O)C1N(C2=CC=CC=C2C1)C(C(C)Br)=O | C14H16BrNO3
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 1-(2-acetylthiopropanoyl)-indoline-2-carboxylic acid ethyl ester | C(C)OC(=O)C1N(C2=CC=CC=C2C1)C(C(C)SC(C)=O)=O | C16H19NO4S
